US04889855
A mixture of 0,6 g (3,3 mmol) 1,2-diamino-5-cyanonaphthalene and 1,4 g oxalic acid dihydrate in 35 ml 0,5N hydrochloric acid was refluxed for 3 h. After cooling to 25° C., the precipitate was filtered off and washed with water. The crude product was recrystallized (dimethylsulfoxide-methanol) to give 0,35 g (45%) 2,3-dihydroxy-7-cyano-benzo[f]quinoxaline.

reactant | 1,2-diamino-5-cyanonaphthalene | 3,3 mmol, 0,6 g | NC1=C(C=CC2=C(C=CC=C12)C#N)N | C11H9N3
reactant | oxalic acid dihydrate | 1,4 g | O.O.C(C(=O)O)(=O)O
solvent | hydrochloric acid | 0,5N, 35 ml | Cl | ClH
product | 2,3-dihydroxy-7-cyano-benzo[f]quinoxaline | 0,35 g, 45% | OC=1C(=NC=2C=CC3=C(C2N1)C=CC=C3C#N)O | C13H7N3O2
